US04632923
A suspension of 4-Hydroxy-3-(4-hydroxybutyl)-1-phenyl-(1,8)-naphthyridin-2(1H)-one (2 g.) in chloroform was stirred in an ice-bath. A solution of bromine (1 g.) in chloroform was added dropwise and the mixture was stirred overnight at room temperature. To this mixture was added a solution of 1,8-diazabicyclo[5.4.0]undec-7-ene (2 g) in chloroform at room temperature. After about 3/4 hr. water was added and the pH was adjusted to be slightly acidic. The chloroform layer was separated and washed with saturated NaCl solution. The solution was dried and evaporated to a solid which was washed with ethanol/water and dried to yield 1-phenyl-3', 4', 5', 6'-tetrahydro-spiro[1,8-naphthyridine-3,2'-(2H) pyran]-2,4-dione, m.p. 213°-215° C.

reactant | 4-Hydroxy-3-(4-hydroxybutyl)-1-phenyl-(1,8)-naphthyridin-2(1H)-one | 2 g | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)CCCCO | C18H18N2O3
reactant | bromine | 1 g | BrBr | Br2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-phenyl-3', 4', 5', 6'-tetrahydro-spiro[1,8-naphthyridine-3,2'-(2H) pyran]-2,4-dione | C1(=CC=CC=C1)N1C(C2(OCCCC2)C(C2=CC=CN=C12)=O)=O | C18H16N2O3
